US06638929B2
A solution of 493.4 mg (1.17 mmol) of 7-azido-6-nitro-4-(3,4,5-trimethoxyanilino)-3-quinolinecarbonitrile in 15 mL of THF and 5 mL of ethanol is hydrogenated at 30 psi for 1 hour in the presence of 100.0 mg of 10% palladium-on-carbon. The catalyst is removed by filtration and the solvent removed in vacuo to give 422.1 mg (98.8%) of 6,7-diamino-4-(3,4,5-trimethoxyanilino)-3-quinolinecarbonitrile as a deep yellow solid which is used directly in the next step.

reactant | 7-azido-6-nitro-4-(3,4,5-trimethoxyanilino)-3-quinolinecarbonitrile | 1.17 mmol, 493.4 mg | N(=[N+]=[N-])C1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C19H15N7O5
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium-on-carbon | 100.0 mg | [Pd] | Pd
product | 6,7-diamino-4-(3,4,5-trimethoxyanilino)-3-quinolinecarbonitrile | 422.1 mg, 98.8% | NC=1C=C2C(=C(C=NC2=CC1N)C#N)NC1=CC(=C(C(=C1)OC)OC)OC | C19H19N5O3
